US07960394B2
6-Chloro-2-{4-[(1-cyclopentylpiperidin-4-yl)oxy]phenyl}-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one
The entitled compound was obtained according to the method of Example 15 but starting from 5-amino-2-chloroisonicotinic acid, methylamine and 4-[(1-cyclopentyl-4-piperidinyl)oxy]benzaldehyde.

reactant | 5-amino-2-chloroisonicotinic acid | NC1=CN=C(C=C1C(=O)O)Cl | C6H5ClN2O2
reactant | methylamine | CN | CH5N
reactant | 4-[(1-cyclopentyl-4-piperidinyl)oxy]benzaldehyde | C1(CCCC1)N1CCC(CC1)OC1=CC=C(C=O)C=C1 | C17H23NO2
product | 6-Chloro-2-{4-[(1-cyclopentylpiperidin-4-yl)oxy]phenyl}-3-methylpyrido[3,4-d]pyrimidin-4(3H)-one | ClC1=CC2=C(N=C(N(C2=O)C)C2=CC=C(C=C2)OC2CCN(CC2)C2CCCC2)C=N1 | C24H27ClN4O2
